US09328096B2
2-bromo-6-(difluoromethoxy)pyridine
To a solution of 2-bromo-6-hydroxypyridine (535 mg, 3.07 mmol) in anhydrous acetonitrile (10 mL) was added sodium sulphate (44 mg, 0.31 mmol) and a solution of 2,2-difluoro-2-(fluorosulfonyl)acetic acid (0.35 mL, 3.38 mmol) in acetonitrile (2 mL). The reaction was stirred at room temperature for 18 hours. Saturated aqueous NaHCO3 solution (10 mL) was added and the solution was concentrated in vacuo. The residue was dissolved in diethyl ether (30 mL), washed with water (20 mL), brine (20 mL), saturated aqueous NaHCO3 solution (20 mL), dried over MgSO4 and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 70-100% DCM in heptanes to afford the title compound (347 mg, 50%).

reactant | 2-bromo-6-hydroxypyridine | 3.07 mmol, 535 mg | BrC1=NC(=CC=C1)O | C5H4BrNO
reactant | sodium sulphate | 0.31 mmol, 44 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,2-difluoro-2-(fluorosulfonyl)acetic acid | 3.38 mmol, 0.35 mL | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-bromo-6-(difluoromethoxy)pyridine | 347 mg, 50% | BrC1=NC(=CC=C1)OC(F)F | C6H4BrF2NO
